Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
___ recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain

 
Major Surgical or Invasive Procedure:
Coronary artery bypass grafting x5(Left internal mammary artery 
to left anterior descending artery; reverse saphenous vein graft 
to the diagonal artery, obtuse marginal artery; sequential vein 
graft to the posterior left ventricle branch artery and the 
posterior descending artery)on ___.

 
History of Present Illness:
This ___ year old male with a history of hypertension who has 
been experiencing chest pain and dyspnea with exertion since 
___.  He reports that he feels chest pain and that his 
breathing becomes labored when walking up hill
or up stairs.  His symptoms subside within seconds after he 
rests. He failed a stress ___ and his subsequent cardiac cath 
revealed multivessel coronary artery disease. Cardiac surgery 
was consulted for revascularization.

 
Past Medical History:
HTN
Right rotator cuff surgery ___ yrs ago
Appendectomy in his ___
Tonsillectomy 
 
Social History:
___
Family History:
Family History:noncontributory

 
Physical Exam:
Admission Physical Exam

Pulse: 80 Resp:17  O2 sat: 100%
B/P  ___
Height: 5 feet 9 inches    Weight:196 pounds

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema Varicosities:
None [x]
Neuro: Grossly intact[x]
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:2+   Left:2+
___           Right:2+   Left:2+
Radial       Right:2+   Left:2+

Carotid Bruit        Right:-    Left:-
 
Pertinent Results:
___ 05:45AM BLOOD WBC-10.7 RBC-3.34* Hgb-10.7* Hct-29.9* 
MCV-89 MCH-31.9 MCHC-35.8* RDW-13.8 Plt ___
___ 12:08PM BLOOD WBC-5.8 RBC-2.76*# Hgb-9.1*# Hct-24.9*# 
MCV-90 MCH-32.9* MCHC-36.6* RDW-12.9 Plt ___
___ 03:54AM BLOOD ___ PTT-27.6 ___
___ 01:31PM BLOOD ___ PTT-35.3* ___
___ 05:45AM BLOOD Glucose-116* UreaN-22* Creat-1.2 Na-137 
K-4.2 Cl-100 HCO3-30 AnGap-11
___ 01:31PM BLOOD UreaN-16 Creat-0.9 Na-139 K-4.1 Cl-111* 
HCO3-24 AnGap-8
 

___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       TEE (Complete) 
Done ___ at 10:50:06 AM      FINAL  
Referring Physician     ___  
___ - Department of Cardiac S
___  Status: Inpatient DOB: ___ 
Age (years): ___ M  Hgt (in):  
BP (mm Hg): /  Wgt (lb):  
HR (bpm):  BSA (m2):  
Indication: Intraoperative TEE for CABG  
ICD-9 Codes: 424.2 
___ Information  
Date/Time: ___ at 10:50    ___ MD: ___, MD 
___ Type: TEE (Complete) Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler ___ Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: 2010AW2-: Machine: AW5 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Inferolateral Thickness:  1.1 cm  0.6 - 1.1 cm  

Left Ventricle - Diastolic Dimension:  3.9 cm  <= 5.6 cm  
Left Ventricle - Ejection Fraction:  >= 55%  >= 55%  
Aorta - Sinus Level:  3.5 cm  <= 3.6 cm  
Aorta - Sinotubular Ridge:  2.9 cm  <= 3.0 cm  
Aorta - Ascending:  3.2 cm  <= 3.4 cm  
Aortic Valve - Peak Gradient:  8 mm Hg  < 20 mm Hg  
Aortic Valve - LVOT diam:  2.0 cm     
 
Findings  
LEFT ATRIUM: No spontaneous echo contrast or thrombus in the 
___ or the RA/RAA. Good (>20 cm/s) ___ ejection velocity. All 
four pulmonary veins identified and enter the left atrium. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: No ASD by 2D or color Doppler. 

LEFT VENTRICLE: Wall thickness and cavity ___ were 
obtained from 2D images. Normal LV wall thickness, cavity size, 
and global systolic function (LVEF>55%). 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Focal 
calcifications in aortic root. Normal ascending aorta diameter. 
Simple atheroma in ascending aorta. Focal calcifications in 
ascending aorta. Simple atheroma in aortic arch. Normal 
descending aorta diameter. Simple atheroma in descending aorta. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. ___ of the 
mitral chordae (normal variant). No resting LVOT gradient. No 
MS. ___ MR ___ normal limits). 

TRICUSPID VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
Physiologic (normal) PR. 

GENERAL COMMENTS: A TEE was performed in the location listed 
above. I certify I was present in compliance with ___ 
regulations. The ___ was under general anesthesia throughout 
the procedure. No TEE related complications. The ___ appears 
to be in sinus rhythm. Results were personally reviewed with the 
MD caring for the ___.  
Conclusions  
PRE BYPASS No spontaneous echo contrast or thrombus is seen in 
the body of the left atrium/left atrial appendage or the body of 
the right atrium/right atrial appendage. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
There are simple atheroma in the ascending aorta. There are 
simple atheroma in the aortic arch. There are simple atheroma in 
the descending thoracic aorta. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Physiologic mitral regurgitation is seen (within 
normal limits). Dr. ___ was notified in person of the results in 
the operating room at the time of the study.

POST BYPASS The ___ is atrially paced. There is normal 
biventricular systolic function. The chordal ___ is more 
prominent and there may be some slight valvular ___ but a 
significant gradient does not exist. The mitral regurgitation is 
now mild but appears central. The thoracic aorta appears intact 
after decannulation. No other significant changes from the 
pre-bypass study.   
  I certify that I was present for this procedure in compliance 
with ___ regulations.

Electronically signed by ___, MD, Interpreting physician 
___ ___ 12:23  
   

 ___ ___. All rights reserved.

 
Brief Hospital Course:
___ Mr. ___ was taken to the operating room and 
underwent Coronary artery bypass grafting x5 ( Left internal 
mammary artery to left anterior descending artery;
reverse saphenous vein graft to the diagonal artery, obtuse 
marginal artery; sequential vein graft to the posterior left 
ventricle branch artery and the posterior descending artery) 
with Dr. ___. Please see operative report for further details. 
He tolerated the procedure well and was transferred to the CVICU 
intubated and sedated in critical but stable condition. He awoke 
neurologically intact and was extubated without difficulty. All 
lines and drains were discontinued in a timely fashion. He was 
weaned off pressors and Beta-blocker/Statin/Aspirin and diuresis 
was initiated. POD#1 he was transferred to the step down unit 
for further monitoring. Physical therapy was consulted for 
evaluation of strength and mobility. ___ the foley cath was 
discontinued and he failed to void. A foley was reinserted, 
Flomax was initiated and ultimately prior to discharge 
___ voided. He continued to progress and was cleared by 
___ discharge to home with ___ on POD# 5. All follow up 
appointments were advised.

 
Medications on Admission:
ATORVASTATIN [LIPITOR] -  - 20 mg Tablet - 1 Tablet(s) by mouth 
once daily
LISINOPRIL -  10 mg Tablet - 1Tablet(s) by mouth once daily
TIMOLOL 
 
Discharge Medications:
1. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
3. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
4. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
5. potassium chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO Q12H (every 12 hours) 
for 7 days.
Disp:*14 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*
6. Lasix 20 mg Tablet Sig: One (1) Tablet PO twice a day for 7 
days.
Disp:*14 Tablet(s)* Refills:*0*
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
8. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*90 Tablet(s)* Refills:*2*
9. tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).
Disp:*60 Capsule, Sust. Release 24 hr(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___.
 
Discharge Diagnosis:
Coronary artery disease
s/p CABG x5 on ___
Hypertension

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with 
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. Edema 
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___